US04812580
(a) Preparation of 3-formyl-4-(2,3-dichlorophenyl)pyrrole
5.4 g of 3-dimethylaminoacrolein, 3.2 g of 2,3-dichlorophenacylamine hydrochloride and 60 ml of ethanol are heated for 11/2 hours under reflux. Then a solution of sodium ethylate in ethanol (prepared from 1 g of sodium and 15 ml of ethanol) is added dropwise and the reaction mixture is heated under reflux for another 30 minutes. After it has cooled to room temperature, the reaction mixture is poured into ice/water and neutralised with hydrochloric acid. The precipitate is washed with water, dried in vacuo, and the dry residue is purified by column chromatography (silica gel; elution with a 4:1 mixture of toluene/ethyl acetate). M.p. 152°-154° C. IR (solid/KBr) in cm-1 : 1655 (CO). 1H-NMR (CDCL3) in ppm: 7.0 (broad s, 1H); 7.3 (m, 2H); 9.66 (s, 1H); 11,9 (s, 1H, H replaceable with D2O). Mass peak at 204. This substance is novel, has fungicidal activity, and falls within the ambit of the invention.

reactant | 3-dimethylaminoacrolein | 5.4 g | CN(C=CC=O)C | C5H9NO
reactant | 2,3-dichlorophenacylamine hydrochloride | 3.2 g | Cl.ClC1=C(C(CN)=O)C=CC=C1Cl
reactant | sodium ethylate | CC[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 15 ml, 1 g | C(C)O | C2H6O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 3-formyl-4-(2,3-dichlorophenyl)pyrrole | C(=O)C1=CNC=C1C1=C(C(=CC=C1)Cl)Cl | C11H7Cl2NO
